US06800651B2
A solution of 3-(2-methoxyphenoxy)aniline (269 mg, 1.25 mmol) and pyridine-3-carboxaldehyde (107 mg, 1.00 mmol) was refluxed in methanol (2.5 mL) for 2 h, then cooled on an ice bath to 5° C. Sodium borohydride (95 mg, 2.5 mmol) was added and the mixture was warmed to room temperature, stirred for 2 h, concentrated in vacuo, and taken up in dichloromethane. The resultant suspension was filtered, the filtrate concentrated in vacuo, and the residue chromatographed on silica gel (eluted with 2% methanol/dichloromethane) to give N-(3-(2-methoxyphenoxy)phenyl)pyrid-3-ylmethylamine.

reactant | 3-(2-methoxyphenoxy)aniline | 1.25 mmol, 269 mg | COC1=C(OC=2C=C(N)C=CC2)C=CC=C1 | C13H13NO2
reactant | pyridine-3-carboxaldehyde | 1.00 mmol, 107 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | Sodium borohydride | 2.5 mmol, 95 mg | [BH4-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
product | N-(3-(2-methoxyphenoxy)phenyl)pyrid-3-ylmethylamine | COC1=C(OC=2C=C(C=CC2)NCC=2C=NC=CC2)C=CC=C1 | C19H18N2O2
